US07553969B1
(5) Synthesis of 3-methyl-2-methylaminobutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamide
To a solution of 2-(N-tert-butoxycarbonyl-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamide (8.03 g, 16.42 mmol) in methylene chloride (80 ml), TFA (40 ml) was added and stirred at room temperature for 30 min. The reaction mixture was evaporated to remove the solvent under reduced pressure; the thus obtained residue was mixed with methylene chloride, washed with a 2N aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: acetone:hexane=1:2), giving two diastereoisomers A and B of the titled compound, A (2.37 g, 37%) being eluted first and then B (2.17 g, 34%). (A)

reactant | 2-(N-tert-butoxycarbonyl-N-methylamino)-3-methylbutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamide | 16.42 mmol, 8.03 g | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1SC=CN1)NC(C(C(C)C)N(C)C(=O)OC(C)(C)C)=O | C26H39N3O4S
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 40 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-methyl-2-methylaminobutyric acid 2-(3-tert-butyl-4-hydroxyphenyl)-1-(thiazol-2-yl)ethylamide | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1SC=CN1)NC(C(C(C)C)NC)=O | C21H31N3O2S
